US06995263B2
c] 5-Chloromethyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyridine
In analogy to the procedure described in example 1 g], [4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol was reacted with thionyl chloride to give the title compound as off-white crystals.

reactant | [4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | FC(C1=C(C=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)CO)(F)F | C14H9F6NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloromethyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=CC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C14H8ClF6N
